US08404684B2
1-[5-(2-Dimethylamino-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-3-[2-(5-ethyl-oxazol-2-yl)-ethyl]-urea
A solution of 1-[2-(5-ethyl-oxazol-2-yl)-ethyl]-3-[5-(2-methanesulfonyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea (0.22 g, 0.049 mmol) and dimethylamine (2M in THF, 0.073 ml, 0.15 mmol) in DMF (1 ml) is heated at 70° C. for 18 hours. The solvent is removed and the product is purified by chromatography on silica eluting with ethyl acetate to give the titled compound.

reactant | 1-[2-(5-ethyl-oxazol-2-yl)-ethyl]-3-[5-(2-methanesulfonyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea | 0.049 mmol, 0.22 g | C(C)C1=CN=C(O1)CCNC(=O)NC=1SC(=C(N1)C)C1=NC(=NC(=C1)C)S(=O)(=O)C | C18H22N6O4S2
reactant | dimethylamine | 0.15 mmol, 2M, 0.073 ml | CNC | C2H7N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-[5-(2-Dimethylamino-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-3-[2-(5-ethyl-oxazol-2-yl)-ethyl]-urea | CN(C1=NC(=CC(=N1)C1=C(N=C(S1)NC(=O)NCCC=1OC(=CN1)CC)C)C)C | C19H25N7O2S
